US06239286B1
1-cyano-1-n-pentanoylaminocyclopentane
11.0 g (0.1mol) of 1-amino-1-cyanocyclopentane and 20.5 g (0.11 mol) of valeric anhydride were refluxed for 3 hours. The reaction mixture was evaporated under vacuo to constant weight. The resulting 19.3 g oil (98.5%) was identical with the product obtained in Example 1.

reactant | 1-amino-1-cyanocyclopentane | 0.1mol, 11.0 g | NC1(CCCC1)C#N | C6H10N2
reactant | valeric anhydride | 0.11 mol, 20.5 g | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
product | 1-cyano-1-n-pentanoylaminocyclopentane | C(#N)C1(CCCC1)NC(CCCC)=O | C11H18N2O
